US04360530
3 g of 3-(m-chlorophenyl)-2,2-dimethyl-2H-azirine and 2.4 g of p-(dimethylamino)benzaldehyde were exposed to light for 2 hours in 350 ml of 1,4-dioxane (with the light source described in Example 2). After removing the solvent in a water-jet vacuum, the residue was chromatographed twice on aluminum oxide (neutral, activity 1), the elution was carried out in both cases with n-hexane/ether (9:1). Crystallization from n-hexane gave 4-(m-chlorophenyl)-5-[p-(dimethylamino)phenyl]-2,2-dimethyl-3-oxazoline which melted at 96°-97° C. after drying for 5 hours at 60° C. and 13 Torr.

reactant | 3-(m-chlorophenyl)-2,2-dimethyl-2H-azirine | 3 g | ClC=1C=C(C=CC1)C=1C(N1)(C)C | C10H10ClN
reactant | p-(dimethylamino)benzaldehyde | 2.4 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | 1,4-dioxane | 350 ml | O1CCOCC1 | C4H8O2
product | 4-(m-chlorophenyl)-5-[p-(dimethylamino)phenyl]-2,2-dimethyl-3-oxazoline | ClC=1C=C(C=CC1)C1=NC(OC1C1=CC=C(C=C1)N(C)C)(C)C | C19H21ClN2O
